US06576645B1
c) 1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-2-phenyl-4-(tetrahydropyran-2-yloxy)-1-[3-(tetrahydropyran-2-yloxy)phenyl]butan-1-ol
is prepared by using the method described in the example 4e starting from 1-{4-[2-(2-benzyloxyethoxy)ethoxy]phenyl}-2-phenyl-4-(tetrahydropyran-2-yloxy)butan-1-one (10 g, 19.2 mmol) and 3-(tetrahydropyran-2-yloxy)phenyl bromide (9.8 g, 38 mmol). The product is purified by flash chromatography with toluene-methanol (50:1) as eluent. Yield 5.7 g, 43%.

reactant | 1-{4-[2-(2-benzyloxyethoxy)ethoxy]phenyl}-2-phenyl-4-(tetrahydropyran-2-yloxy)butan-1-one | 19.2 mmol, 10 g | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)C(C(CCOC1OCCCC1)C1=CC=CC=C1)=O | C32H38O6
reactant | 3-(tetrahydropyran-2-yloxy)phenyl bromide | 38 mmol, 9.8 g | O1C(CCCC1)OC=1C=C(C=CC1)Br | C11H13BrO2
product | 1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-2-phenyl-4-(tetrahydropyran-2-yloxy)-1-[3-(tetrahydropyran-2-yloxy)phenyl]butan-1-ol | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)C(C(CCOC1OCCCC1)C1=CC=CC=C1)(O)C1=CC(=CC=C1)OC1OCCCC1 | C43H52O8
